US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylphenyl)benzamide (285.0 mg, 0.62 mmol) and acetic anhydride (0.071 ml, 0.74 mmol), the procedure of Inventive Example 94 was repeated to obtain 311.8 mg (99.9%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylphenyl)benzamide | 0.62 mmol, 285.0 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O2
reactant | acetic anhydride | 0.74 mmol, 0.071 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylphenyl)benzamide | 311.8 mg, 99.9% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H32FN3O3
